US08686002B2
1.5 N-(2,6-Dimethoxybenzyl)-2-nitrobenzamide
4 g 2-nitrobenzoic acid (23.93 mmol) and 2.42 g triethylamine were dissolved in 100 mL dichloromethane, mixed with one equivalent isobutyl chloroformate (3.27 g) at 5° C. and stirring was continued for 1 hour at room temperature. Then the mixture was cooled again to 5° C., 4.02 g 2,6-dimethoxybenzylamine was added and the mixture was stirred at room temperature until the reaction was complete. For workup, the mixture was diluted with dichloromethane, washed twice each with 10% citric acid, saturated NaHCO3 and saturated NaCl solution, dried with MgSO4, filtered and concentrated, yielding 7.5 g beige solids that were reacted further directly without any further workup.

reactant | 2-nitrobenzoic acid | 23.93 mmol, 4 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | triethylamine | 2.42 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 3.27 g, one equivalent | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2,6-dimethoxybenzylamine | 4.02 g | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(2,6-Dimethoxybenzyl)-2-nitrobenzamide | 7.5 g | COC1=C(CNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C(=CC=C1)OC | C16H16N2O5
